US05209771
Phenyl N-[2-(oxetan-3-oxycarbonyl)phenylsulfonyl]carbamate (compound No. 1.030)
A mixture of 2.57 g of 2-(oxetan-3-oxycarbonyl)phenylsulfonamide, 2.14 g of diphenyl carbonate, 1.38 g of potassium carbonate and 13 ml of dimethylformamide is stirred at a temperature of 20°-25° C. for 15 hours. The reaction mixture is then poured into ice-water, the pH is brought to a value of 5-6 by dropwise addition of 10% hydrochloric acid and the mixture is extracted with ethyl acetate and washed with water. After drying over sodium sulfate, evaporation and crystallisation of the residue from diethyl ether, 2.2 g of phenyl N-[2-(oxetan-3-oxycarbonyl)phenylsulfonyl)carbamate (compound 1.030) of melting point 91°-92° C. are obtained.

reactant | 2-(oxetan-3-oxycarbonyl)phenylsulfonamide | 2.57 g | O1CC(C1)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N | C10H11NO5S
reactant | diphenyl carbonate | 2.14 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | Phenyl N-[2-(oxetan-3-oxycarbonyl)phenylsulfonyl]carbamate | O1CC(C1)OC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(OC1=CC=CC=C1)=O | C17H15NO7S
